US07259160B2
A solution of di-tert-butyl dicarbonate (22 mL, 22 mmol, 1M in THF) was added to a stirred solution of DL-3-aminoisobutyric acid (2.06 g, 20 mmol) and potassium carbonate (3.0 g, 22 mmol) in water (30 mL) and stirred at room temperature overnight. The aqueous mixture was washed with ether and then carefully acidified (pH˜2) with 3N hydrochloric acid at 0° C., and the resulting cloudy mixture was extracted with ethyl acetate (3×). The combined organic layer was washed with brine, dried over sodium sulfate, filtered, and evaporated to yield 3-[(tert-butoxycarbonyl)amino]-2-methylpropanoic acid as white solid.

reactant | di-tert-butyl dicarbonate | 22 mmol, 1M, 22 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | DL-3-aminoisobutyric acid | 20 mmol, 2.06 g | CC(CN)C(=O)O | C4H9NO2
reactant | potassium carbonate | 22 mmol, 3.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 30 mL | O | H2O
product | 3-[(tert-butoxycarbonyl)amino]-2-methylpropanoic acid | C(C)(C)(C)OC(=O)NCC(C(=O)O)C | C9H17NO4
